US07214673B2
2-(2-Nitro-phenylamino)-benzonitrile
Combine 1-fluoro-2-nitro-benzene (5.00 g, 35.44 mmol), 2-amino-benzonitrile (4.19 g, 35.44 mmol), lithium hydroxide monohydrate (2.97 g, 70.87 mmol) and DMSO (50.0 ml). Stir the mixture at 55 ° C. for 19 hours then cool to ambient temperature. Pour the mixture onto ice chips and stir for 1 hour. Remove the resulting precipitate by vacuum filtration. Dry the precipitate under vacuum to give 6.14 g (72%) of an orange solid: mp 134–138°.

reactant | 1-fluoro-2-nitro-benzene | 35.44 mmol, 5.00 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-amino-benzonitrile | 35.44 mmol, 4.19 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | lithium hydroxide monohydrate | 70.87 mmol, 2.97 g | O.[OH-].[Li+]
solvent | DMSO | 50.0 ml | CS(=O)C | C2H6OS
product | 2-(2-Nitro-phenylamino)-benzonitrile | 6.14 g, 72% | [N+](=O)([O-])C1=C(C=CC=C1)NC1=C(C#N)C=CC=C1 | C13H9N3O2
